US04336379
A mixture of 61.1 g. (0.4 mole) of 4-acetyl-3-ethyl-5-methyl-isoxazole, 39.4 ml. (0.4 mole) of phenyl hydrazine and 500 mg. toluenesulfonic acid in 400 ml. ethanol is stirred at room temperature for 48 hours. The resulting solid is filtered and washed with cold ether to give 1-(3-ethyl-5-methyl-4-isoxazolyl)-1-ethanone phenyl hydrazone; m.p. 72° to 75° C.

reactant | 4-acetyl-3-ethyl-5-methyl-isoxazole | 0.4 mole | C(C)(=O)C=1C(=NOC1C)CC | C8H11NO2
reactant | phenyl hydrazine | 0.4 mole | C1(=CC=CC=C1)NN | C6H8N2
reactant | toluenesulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-ethyl-5-methyl-4-isoxazolyl)-1-ethanone phenyl hydrazone | C1(=CC=CC=C1)NN=C(C)C=1C(=NOC1C)CC | C14H17N3O
